US07514463B2
Step 1:1-(2-Chloropyridin-3-yl)ethanol
Dry THF (400 mL) and n-butyllithium (1.6 M in hexane, 63 mL, 0.1 mol) were introduced into a 1 L flask under nitrogen at −70° C. A solution of dry diisopropylamine (10.1 g, 0.1 mol) in THF (25 mL) was added dropwise to the mixture at −70° C. The mixture was then kept for 1 h at 0° C. and then cooled to −70° C. A solution of 2-chloropyridine (11.3 g, 0.1 mol) in THF (25 mL) was added dropwise to the mixture at −70° C. and the mixture was stirred for 3 h at this temperature. A solution of acetaldehyde (4.85 g, 0.11 mol) in dry THF (50 mL) was then added dropwise and the mixture was kept for 3 h at −70° C. A solution of water (4 mL) in THF (40 mL), acidified by a few drops of concentrated hydrochloric acid, was added to the mixture at −40° C. and then water (200 mL) was introduced at −10° C. Extraction with diethyl ether (3×10 mL), drying over anhydrous sodium sulfate, and evaporation gave a crude product, which was purified by column chromatography to yield an oil (10 g, 64%). *1H NMR (CDCl3) 8.15 (dd, J=5 and 2 Hz, 1H), 7.95 (dd, J=8 and 2 Hz, 1H), 7.20 (dd, J=8 and 5 Hz, 1H), 5.15 (d, J=7 Hz, 1H), 3.90 (s, 1H), 1.45 (d, J=7 Hz, 3H).

reactant | n-butyllithium | 0.1 mol, 1.6 M, 63 mL | C(CCC)[Li]
reactant | diisopropylamine | 0.1 mol, 10.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-chloropyridine | 0.1 mol, 11.3 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | acetaldehyde | 0.11 mol, 4.85 g | C(C)=O | C2H4O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | hydrochloric acid | a few drops | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | water | 4 mL | O | H2O
product | 1-(2-Chloropyridin-3-yl)ethanol | 10 g, 64% | ClC1=NC=CC=C1C(C)O | C7H8ClNO
